US08071592B2
(c) Ethyl N-[2-{[2,2-bis(methyloxy)ethyl]amino}-6-(methyloxy)-3-pyridinyl]glycinate
A mixture of N2-[2,2-bis(methyloxy)ethyl]-6-(methyloxy)-2,3-pyridinediamine (2.2 g, 10 mmol), ethyl bromoacetate (1.1 mL, 1.65 g, 10 mmol) and potassium carbonate (2.1 g, 20 mmol) in acetonitrile (50 mL) and DMF (5 mL) was stirred at room temperature overnight. The mixture was filtered and evaporated. The residue was dissolved in ethyl acetate and washed with water and brine. The organic extract was concentrated and added to a silica column which was then eluted with 0-100% ethyl acetate in hexane affording product (2.5 g, 82%).

reactant | N2-[2,2-bis(methyloxy)ethyl]-6-(methyloxy)-2,3-pyridinediamine | 10 mmol, 2.2 g | COC(CNC1=NC(=CC=C1N)OC)OC | C10H17N3O3
reactant | ethyl bromoacetate | 10 mmol, 1.1 mL, 1.65 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 20 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl N-[2-{[2,2-bis(methyloxy)ethyl]amino}-6-(methyloxy)-3-pyridinyl]glycinate | COC(CNC1=NC(=CC=C1NCC(=O)OCC)OC)OC | C14H23N3O5
